US04272437
4-Azidopentanonitrile
To a stirring solution of NaN3 (15 g) in boiling water (20 ml) was added a solution of crude 4-methanesulphonyloxypentanonitrile (37.7 g, ≈0.189 mol) in ethanol (240 ml) and the mixture refluxed for 1.5 h. After cooling the mixture was partitioned between H2O and CH2Cl2. The organic phase was dried and concentrated in vacuo to give 21.4 g of the title material as a light brown oil, (91.6): 1Hmr (CDCl3) δ: 4.05 (1H, q, J=13 Hz), 2.46 (2H, t, J=13 Hz), 1.8 (2H, t, J=13 Hz) and 1.35 ppm (3H, d, J=13 Hz); ir (neat) νmax : 2242, 2100 cm-1.

reactant | NaN3 | 15 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | 4-methanesulphonyloxypentanonitrile | ≈0.189 mol, 37.7 g | CS(=O)(=O)OC(CCC#N)C | C6H11NO3S
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | 4-Azidopentanonitrile | 21.4 g | N(=[N+]=[N-])C(CCC#N)C | C5H8N4
